US07053071B2
To the ethyl hydroxycinnamate (5.02 g, 22.1 mmol), prepared in Step 3, and pyridine (4.0 mL, 50.0 mmol) in dichloromethane (50 mL) at 0° C. under argon was added trifluoromethanesulfonic anhydride (4.0 mL, 23.7 mmol) over a 30-minute period. The mixture was stirred for 4 hours, warmed to 20° C., then worked-up (10% hydrochloric acid and 5% NaHCO3 washes) to afford ethyl (E)-3-chloro-4-(trifluoromethanesulfonyloxy)cinnamate as a white solid (7.90 g, 98% yield): m.p. 59–61° C.; Rf0.49 (20% ethyl acetate/hexane); 1H NMR spectrum (300 MHz, CDCl3) δ 1.35 (t, J=7.1 Hz, 3, CH3), 4.28 (q, J=7.1 Hz, 2, CH2), 6.45 (d, J=16.0 Hz, 1, HC═CCO), 7.38 (d, J=8.5 Hz, 1, ArH), 7.48 (dd, J=8.5, 1.8 Hz, 1, ArH), 7.59 (d, J=16.0 Hz, 1, C=CHCO), 7.67 ppm (d, J=1.9 Hz, 1, ArH).

reactant | ethyl hydroxycinnamate | 22.1 mmol, 5.02 g | OC(C(=O)OCC)=CC1=CC=CC=C1 | C11H12O3
reactant | pyridine | 50.0 mmol, 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 23.7 mmol, 4.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl (E)-3-chloro-4-(trifluoromethanesulfonyloxy)cinnamate | 7.90 g, 98% yield | ClC=1C=C(/C=C/C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C12H10ClF3O5S
